US05021435
Acetic anhydride (0.2 g) was added dropwise to a solution of 3-(2-aminoethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one (0.50 g, 1.43 mmol) in pyridine (2 ml) with stirring under cooling with ice. The mixture was left standing overnight at room temperature. To this solution was added saturated aqueous NaHCO3 (30 ml), and the mixture was extracted with benzene. After drying of the extract, the solvent was removed therefrom by evaporation under reduced pressure, giving the intended 3-(2-acetylaminoethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one (0.52 g, 92% yield) as an oily form.

reactant | Acetic anhydride | 0.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(2-aminoethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one | 1.43 mmol, 0.50 g | NCCN1C(SC(C1=O)CCCCCCCCC)C=1C=NC=CC1 | C19H31N3OS
reactant | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-acetylaminoethyl)-5-(n-nonyl)-2-(3-pyridyl)thiazolidin-4-one | 0.52 g, 92% yield | C(C)(=O)NCCN1C(SC(C1=O)CCCCCCCCC)C=1C=NC=CC1 | C21H33N3O2S
